US07045539B2
3) Synthetic Method C: Synthesis of 4-chloro-6-hydroxy-2-(4-hydroxyphenyl)benzoxazole
To a suspension of 4-chloro-2-(4-hydroxyphenyl)-6-methoxybenzoxazole (240 mg) in dichloromethane (5 mL) cooled at −78° C. was added boron tribromide (5 mL, 1M solution in dichloromethane, 5.7 eq.). The mixture was stirred at −78° C. for 10 min, warmed to room temperature and stirred for 3 h. The mixture was poured onto ice/water and extracted with ethyl acetate. The organic layer was washed with brine and dried over MgSO4. Chromatography on a silica gel column (eluant: acetone-dichloromethane, gradient from 0:100 to 5:95) and trituration of the resulting solid in dichloromethane afforded the title compound (53 mg) as a solid. NMR (DMSO-d6): 10.31 (s, 1H), 10.17 (s, 1H), 7.98 (d, 2H, J=8.4 Hz), 7.06 (s, 1H), 6.95 (d, 2H, J=8.4 Hz), 6.87 (s, 1H); MS: 262 (MH+); HPLC tR: 1.99 min.

reactant | 4-chloro-2-(4-hydroxyphenyl)-6-methoxybenzoxazole | 240 mg | ClC1=CC(=CC2=C1N=C(O2)C2=CC=C(C=C2)O)OC | C14H10ClNO3
reactant | boron tribromide | 1M, 5 mL, 5.7 eq. | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-chloro-6-hydroxy-2-(4-hydroxyphenyl)benzoxazole | 53 mg | ClC1=CC(=CC2=C1N=C(O2)C2=CC=C(C=C2)O)O | C13H8ClNO3
